US06365753B1
Methyl 2-Chloro-3-(2-chloro-4-fluoro-5-phthalimidophenyl)propionate
In 20 ml of acetonitrile were dissolved 3.44 g of methyl acrylate and 0.62 g of t-butyl nitrite, and 0.65 g of copper (II) chloride was added. Under stirring, 1.16 g of N-(5-amino-4-chloro-2-fluorophenyl)phthalimide was added thereto in small portions, followed by stirring at room temperature for 1 hour. 3N Hydrochloric acid was added to the reaction mixture. After stirring, the reaction mixture was extracted with ethyl acetate. The organic layer was washed successively with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-hexane=1:5) to give 0.98 g of the title compound (No. 4 of Table 1).

reactant | methyl acrylate | 3.44 g | C(C=C)(=O)OC | C4H6O2
reactant | t-butyl nitrite | 0.62 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-(5-amino-4-chloro-2-fluorophenyl)phthalimide | 1.16 g | NC=1C(=CC(=C(C1)N1C(C=2C(C1=O)=CC=CC2)=O)F)Cl | C14H8ClFN2O2
reactant | Hydrochloric acid | 3N | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | copper (II) chloride | 0.65 g | [Cu](Cl)Cl
product | Methyl 2-Chloro-3-(2-chloro-4-fluoro-5-phthalimidophenyl)propionate | 0.98 g | ClC(C(=O)OC)CC1=C(C=C(C(=C1)N1C(C=2C(C1=O)=CC=CC2)=O)F)Cl | C18H12Cl2FNO4
